US04061761
3-Allyl-2-allylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 2.5 g of 1,3-diallyl-thiourea were reacted according to the prescription given in Example 12, the end product was precipitated with diisopropyl ether and the oil obtained was crystallized with diethyl ether/ethyl acetate (1:1).

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-diallyl-thiourea | 2.5 g | C(C=C)NC(=S)NCC=C | C7H12N2S
product | 3-Allyl-2-allylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C=C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCC=C | InChI=1S/C15H18ClN3O3S2.ClH/c1-3-7-18-14-19(8-4-2)15(20,10-23-14)11-5-6-12(16)13(9-11)24(17,21)22;/h3-6,9,20H,1-2,7-8,10H2,(H2,17,21,22);1H
